US07429665B2
2-Methyl-1-{4-pyridin-4-yl-5-[4-(quinolin-2-ylmethoxy)-phenyl]-pyrazol-1-yl}-propan-2-ol
Following the procedure for the preparation of 2-[4-(1-Methyl-4-pyridin4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinoline but substituting 1-Hydrazino-2-methyl-propan-2-ol provided the title compound. 1H NMR (400 MHz, CDCl3) δ 8.37 (d, J=5.8 Hz, 2 H), 8.24 (d, J=8.3 Hz, 1 H), 8.09 (d, J=9.1 Hz, 1 H), 7.87 (s, 1H), 7.85 (d, J=7.9 Hz, 1H), 7.76 (m, 1 H), 7.72 (m, 1H), 7.17 (m, 4 H), 7.00 (d, J=6.2 Hz, 2H), 5.42 (s, 2H) 3.89 (s, 2H), 1.04 (s, 6H); MS: (M+H m/z=451.2).

reactant | 2-[4-(1-Methyl-4-pyridin4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinoline | CN1N=C(C(=C1)C1=CC=NC=C1)C1=CC=C(OCC2=NC3=CC=CC=C3C=C2)C=C1 | C25H20N4O
reactant | 1-Hydrazino-2-methyl-propan-2-ol | N(N)CC(C)(O)C | C4H12N2O
product | 2-Methyl-1-{4-pyridin-4-yl-5-[4-(quinolin-2-ylmethoxy)-phenyl]-pyrazol-1-yl}-propan-2-ol | CC(CN1N=CC(=C1C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)C1=CC=NC=C1)(C)O | C28H26N4O2
